US07026312B2
Diethyl 2-acetylamino-2-(3,4-diethyl-benzyl)-malonate
Under a nitrogen atmosphere 8.14 g (354 mmol) of sodium was added in batches to 200 mL abs. EtOH and stirred until fully dissolved. 76.9 g (354 mmol) diethyl 2-acetylaminomalonate was then added to this solution, whereupon the sodium salt formed was precipitated. After the addition of 150 mL 1,4-dioxane a solution of 80 g (352 mmol) of 4-bromomethyl-1,2-diethyl-benzene in 500 mL of 1,4-dioxane was added dropwise to this suspension. The reaction solution was kept at 50° C. for 2 hours and then stirred for 16 hours at RT. The solvent was distilled off i. vac., the oily residue was combined with water, while the product was obtained in the form of white crystals. These were suction filtered, washed with water and reacted without any further purification.

reactant | sodium | 354 mmol, 8.14 g | [Na] | Na
reactant | EtOH | CCO | C2H6O
reactant | diethyl 2-acetylaminomalonate | 354 mmol, 76.9 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 4-bromomethyl-1,2-diethyl-benzene | 352 mmol, 80 g | BrCC1=CC(=C(C=C1)CC)CC | C11H15Br
solvent | 1,4-dioxane | 500 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | Diethyl 2-acetylamino-2-(3,4-diethyl-benzyl)-malonate | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=CC(=C(C=C1)CC)CC | C20H29NO5
